US04419517
A. 2-(m-Methoxyphenyl)-4-methyl-cyclohexanone
Employing the general procedure of T. Kametani, et al., J. Chem. Soc. (C), 1971, 1047, 187 g o-chloroanisole was added to a mixture of 215 g of sodium amide, 3 liters of anhydrous tetrahydrofuran and 400 g of 4-methylcyclohexanone. The reaction was refluxed for 18 hours then quenched with saturated ammonium chloride. Concentration of the organic phase, dilution with water, extraction with ether and distillation of the residue from concentrating the ether extracts gave 90 g, b.p. 135° (0.07 mm), of product.

reactant | o-chloroanisole | 187 g | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | sodium amide | 215 g | [NH2-].[Na+]
reactant | 4-methylcyclohexanone | 400 g | CC1CCC(CC1)=O | C7H12O
solvent | tetrahydrofuran | 3 liters | O1CCCC1 | C4H8O
product | 2-(m-Methoxyphenyl)-4-methyl-cyclohexanone | COC=1C=C(C=CC1)C1C(CCC(C1)C)=O | C14H18O2
